US04597902
N-[2-[(4-Hydroxyphenyl)sulfonyl]ethyl]-2-propanamine hydrochloride
A solution of N-[2-[(4-chlorophenyl)sulfonyl]ethyl]-1-methylethanamine hydrochloride and sodium hydroxide in 500 ml of dimethyl sulfoxide is heated at 95° C. for 2 hrs with stirring. The solvent is removed by rotary evaporation (vacuum pump) and the residue is partitioned between water (pH adjusted to 7 by the addition of dilute hydrochloric acid) and chloroform. The chloroform is removed and the residue is converted to the hydrochloride salt with ethereal hydrogen chloride. The salt is then recrystallized from methanol-diethyl ether to give crystalline title compound.

reactant | N-[2-[(4-chlorophenyl)sulfonyl]ethyl]-1-methylethanamine hydrochloride | Cl.ClC1=CC=C(C=C1)S(=O)(=O)CCNC(C)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethyl sulfoxide | 500 ml | CS(=O)C | C2H6OS
product | N-[2-[(4-Hydroxyphenyl)sulfonyl]ethyl]-2-propanamine hydrochloride | Cl.OC1=CC=C(C=C1)S(=O)(=O)CCNC(C)C | InChI=1S/C11H17NO3S.ClH/c1-9(2)12-7-8-16(14,15)11-5-3-10(13)4-6-11;/h3-6,9,12-13H,7-8H2,1-2H3;1H
